US08106075B2
Step 1: Preparation of 2-(phtalimidomethyl)oxetane:
A solution of 2-(tosyloxymethyl)oxetane (27 g, 111.4 mmol) (prepared according to A. O. Fitton et al., Synthesis 1987, (12), 1140-2) and potassium phtalimide (20.64 g, 111.4 mmol) in DMF (200 ml) is stirred at a temperature of 120° C. for 18 hours, then evaporated in vacuo. The residue is taken up in ethyl acetate, the organic layer washed with water and brine, dried (Na2SO4), filtered, and evaporated to dryness. The crude solid product (19.8 g, 82%) is used in the next step without further purification.

reactant | 2-(tosyloxymethyl)oxetane | 111.4 mmol, 27 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1OCC1 | C11H14O4S
reactant | potassium phtalimide | 111.4 mmol, 20.64 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-(phtalimidomethyl)oxetane | C1(C=2C(C(N1CC1OCC1)=O)=CC=CC2)=O | C12H11NO3
